US05252698
Diaminotetraphenylporphyrin
A 2-1 three-necked round bottomed flask was fitted with a condenser and a dropping funnel to add solid material. To this flask was added anhydrous dichloromethane (850-ml) and methanol (420-ml). To this organic solution was added 10% palladium on carbon (14.0 g), the mixture was stirred under an argon blanket, and then cooled in an ice bath. Sodium borohydride (4.0 g, mol) was added in small portions over about 30-min. Next the dinitrotetraphenylporphyrin (7.0 g, 0.01 mol) and solid sodium borohydride (14.0 g) were added in small portions over about 60-min. The reaction mixture was stirred under argon for 30 min. The reaction mixture was filtered through a layer of CELITE® (diatomateous earth of Johns Manville, Denver, Colo.) in a Buchner funnel and washed repeatedly with dichloromethane. The solvent was completely removed under reduced pressure to produce a crude residue. The residue was redissolved in dry dichloromethane to separate insoluble CELITE®, and filtered. The solvent was removed under reduced pressure and dried to produce a purified residue (6.2 g). This residue was flash chromatographed over silica using dichloromethane as eluent. The product obtained (0.6 g, 9.6% yield) was free of impurities. See FIG. 4.

reactant | methanol | 420-ml | CO | CH4O
reactant | Sodium borohydride | 4.0 g | [BH4-].[Na+]
reactant | dinitrotetraphenylporphyrin | 0.01 mol, 7.0 g | [N+](=O)([O-])N1C=2C=CC1=C(C=1C=CC(=C(C3=CC=C(N3[N+](=O)[O-])C(=C3C=CC(C2C2=CC=CC=C2)=N3)C3=CC=CC=C3)C3=CC=CC=C3)N1)C1=CC=CC=C1 | C44H28N6O4
reactant | sodium borohydride | 14.0 g | [BH4-].[Na+]
catalyst | palladium on carbon | 14.0 g | [Pd] | Pd
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 850-ml | ClCCl | CH2Cl2
product | Diaminotetraphenylporphyrin | 6.2 g, 9.6% yield | NN1C=2C=CC1=C(C=1C=CC(=C(C3=CC=C(N3N)C(=C3C=CC(C2C2=CC=CC=C2)=N3)C3=CC=CC=C3)C3=CC=CC=C3)N1)C1=CC=CC=C1 | C44H32N6
